Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / eggs, peanuts, 
 
Attending: ___
 
___ Complaint:
Nausea, vomiting, dizziness  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo F pmh depression/anxiety/GERD initially from PA attending 
school in ___ presented to the ED today for the ___ time in 3 
days with symptoms of nausea, vomiting, dizziness. Patient 
states that yesterday she felt gassy, bloated and nauseated. 
Today was improved but after a few hours started feeling 
nauseated again which she thought was anxiety but did not 
improve. ___ has been trying to eat crackers and can only get 2 
town. Also trying to drink Gatorade as well. Feels like she had 
a fever earlier which improved with Tylenol.  

 Patient went to the urgent care, received one dose Zofran and 
continued to feel unwell so presented to ___.  

 On arrival to the emergency department, patient triggered for 
HR 130's; she received 2L and HR improved to 100's. Of note, 
patient takes Ritalin.  

 In the ED, initial vitals were: 98.1 F HR 134 BP 137/83 RR 16 
99% RA  
 - Exam notable for: mildly tender abdomen otherwise 
unremarkable  
 - Labs notable for:  
 WBC 3.2 78% neutrophils, hgb 15 plt 151  
 Na+ 136/K+ 3.9/Cl- 97/HCO3- 25/BUN 6/Cr 0.8/Gluc 124  
 ALT 9 AST 22 AP 75 Tbili 0.6 Alb 4.1 lactate 2.2  
 UA neg/UCx and BCx pending/ UCG neg  
 - Imaging was notable for: no imaging performed  
 - Patient was given: 2L NS; 0.5 mg IV lorazepam  

 - Vitals prior to transfer: 100.9 F HR 93 BP 120/75 RR 16 99% 
RA  
 Upon arrival to the floor, patient reports that her nausea is 
improved. She endorses dizziness that is positional, worse when 
she changes position, only lasts about 30 seconds when she 
changes position and causes the nausea. Patient states she has 
had subjective fevers over the past 48 hrs. She works at a pre-K 
and currently is taking classes; she reports that none of the 
children or classmates are sick will similar illnesses.  

 Patient has IUD in place; past history of chlamydia ___ yr ago 
that was treated. No abnormal vaginal discharge, no pain with 
intercourse. Patient had previous HIV tests that were negative. 
New partners in the last month, uses condoms. No prior 
pregnancies.  

 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI
 
Past Medical History:
Anxiety  
 Depression  
 ADHD  
 GERD  

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSIONS PHYSICAL EXAM:  
 Vital Signs: 100.1 PO 112/73 L Lying HR 90 18 97 RA  
 General: A&O3X, mild distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no LAD  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

DISCHARGE PHYSICAL EXAM: 
98.3 ___    98 
*General: A&O3X, mild distress  
*HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
*Neck: Supple. JVP not elevated. no LAD  
*CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
*Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
*Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
*GU: No foley  
*Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
*Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.
 
Pertinent Results:
ADMISSION LABS:
___ 07:30PM BLOOD WBC-6.2 RBC-4.69 Hgb-14.7# Hct-42.4# 
MCV-90 MCH-31.3# MCHC-34.7 RDW-12.4 RDWSD-40.5 Plt ___
___ 07:30PM BLOOD Neuts-82.4* Lymphs-9.6* Monos-7.5 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-5.14 AbsLymp-0.60* 
AbsMono-0.47 AbsEos-0.00* AbsBaso-0.01
___ 07:30PM BLOOD Plt ___
___ 07:30PM BLOOD Glucose-104* UreaN-6 Creat-0.7 Na-138 
K-3.8 Cl-100 HCO3-23 AnGap-19
___ 07:30PM BLOOD ALT-8 AST-18 AlkPhos-84 TotBili-0.6
___ 07:30PM BLOOD Lipase-29
___ 07:30PM BLOOD Albumin-4.2 Calcium-9.0 Phos-3.0 Mg-2.0
___ 07:44PM BLOOD Lactate-1.3

INTERVAL LABS:
___ 07:16AM BLOOD ___ PTT-28.4 ___
___ 06:47PM BLOOD Lactate-2.2*
___ 07:20AM BLOOD Lactate-0.79

DISCHARGE LABS:
___ 10:15AM BLOOD WBC-3.4* RBC-4.25 Hgb-13.3 Hct-39.0 
MCV-92 MCH-31.3 MCHC-34.1 RDW-12.5 RDWSD-41.8 Plt ___
___ 06:15PM BLOOD Neuts-78.1* ___ Monos-1.9* 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-2.46# AbsLymp-0.61* 
AbsMono-0.06* AbsEos-0.00* AbsBaso-0.01
___ 10:15AM BLOOD Plt ___
___ 07:16AM BLOOD ___ PTT-28.4 ___
___ 07:16AM BLOOD Glucose-89 UreaN-6 Creat-0.6 Na-141 K-3.7 
Cl-107 HCO3-26 AnGap-12
___ 07:16AM BLOOD Calcium-8.6 Phos-3.6 Mg-1.9
___ 07:20AM BLOOD Lactate-0.79

MICROBIOLOGY
___ negative
___ CULTURE-FINAL; CAMPYLOBACTER 
CULTURE-FINAL; FECAL CULTURE - R/O E.COLI 
0157:H7-FINALINPATIENT NO GROWTH
___. difficile DNA amplification assay
___ CULTURE-FINAL
___ CULTUREBlood Culture, Routine
___ CULTURE-FINAL {GRAM POSITIVE BACTERIA}
  GRAM POSITIVE BACTERIA.    10,000-100,000 CFU/mL. Alpha 
hemolytic colonies consistent with alpha streptococcus or 
Lactobacillus sp. 
 
Brief Hospital Course:
___ yo F pmh depression/anxiety/GERD presents with 
diarrhea/nausea/vomiting for 3 days duration, leukopenia, fever 
and tachycardia consistent with a viral gastroenteritis. 

# Nausea/vomiting  # Diarrhea 
Patient described a diarrhea-predominant course that was 
consistent with viral gastroenteritis although more prolonged 
and significant than most cases.  She had presented both to 
urgent care and to the emergency department with refractory 
symptoms as above, as well as poor ability to tolerate PO. She 
demonstrated leukopenia to WBC 3.2 on admission with a lactate 
of 2.2, with tachycardia of 130s that responded to bolus IVFs. 
She improved symptomatically overnight with IVF support and 
monitoring as she increased her PO intake. With her negative 
C-diff assay, loperamide was started with significant 
improvement. She tolerated dinner well on ___ and was discharged 
and instructed to follow-up with her PCP. She was counseled on 
worrisome signs or symptoms including any recurrence that should 
prompt her to contact her PCP.

# Tachycardia: Patient demonstrated an EKG with sinus 
tachycardia and was triggered upon arrival to ED for HR 130's. 
It was thought this was likely in the setting of volume 
depletion, viral illness and medication effect from Ritalin.
Resolved to HR 90's after total 3L fluid. 
  
CHRONIC ISSUES:  
# Depression/Anxiety: Continued citalopram/Risperdal/gabapentin 

Transitional Issues:
- Patient has stool studies, urine/blood cultures, and a 
monospot pending at time of discharge. She expressed interest 
and plan to set up ___ primary care. She was encouraged to have 
her PCP look at final results or call to receive the results.
- Encouraged patient to continue improving her PO intake.
- Patient received last dose of diflucan on ___ given that she 
missed her usual ___ dose
- Patient was given and prescribed loperamide for diarrhea given 
that the diagnosis seemed particularly consistent with viral 
gastroenteritis and not bacterial causes.
# CODE: full

Greater than 30 minutes were spent on this patient's discharge 
day management.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 30 mg PO QAM 
2. RisperiDONE 0.5 mg PO QHS 
3. Gabapentin 300 mg PO QHS 
4. MethylPHENIDATE (Ritalin) 5 mg PO DAILY 
5. ___ (levonorgestrel) 14 mcg/24 hour ___ years) IUD ___ 
6. Fluconazole 100 mg PO 1X/WEEK (MO) 

 
Discharge Medications:
1.  LOPERamide 2 mg PO QID:PRN diarrhea 
RX *loperamide 2 mg 1 capsule by mouth up to 4 times per day 
Disp #*20 Capsule Refills:*0 
2.  Citalopram 30 mg PO QAM  
3.  Fluconazole 100 mg PO 1X/WEEK (MO)  
4.  Gabapentin 300 mg PO QHS  
5.  MethylPHENIDATE (Ritalin) 5 mg PO DAILY  
6.  RisperiDONE 0.5 mg PO QHS  
7.  ___ (levonorgestrel) 14 mcg/24 hour ___ years) IUD ___  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Viral gastroenteritis

SECONDARY DIAGNOSIS:
GERD
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after experiencing several 
days of nausea, vomiting, and diarrhea. You were evaluated with 
blood work and imaging which was concerning for an temporary 
infection of the gastrointestinal tract called gastroenteritis. 
This was most likely caused by a virus (aka "stomach bug") and 
you should begin to feel better within a few days. You were 
eating and drinking well after being monitored in the hospital 
overnight. 

Please continue to drink lots of fluids after you return home.

It was a pleasure to be involved with your care at ___!
- Your ___ Care Team.
 
Followup Instructions:
___